US06562849B1
1-(3-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-[3-(trifluoromethyl)phenyl]urea (exemplification compound number 2-25)
A mixture of 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg), α,α,α-trifluoro-m-tolyl isocyanate (149 mg), triethylamine (153 mg) and anhydrous N,N-dimethylformamide (4 ml) was stirred at room temperature for 2 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=2:1→ethyl acetate as the eluant and the product was recrystallized from a mixture of methanol and diisopropyl ether (1:3) to afford the title compound (239 mg, mp 161.8-163.4° C.).

reactant | 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC=1C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC1
reactant | α,α,α-trifluoro-m-tolyl isocyanate | 149 mg | FC(C1=CC(=CC=C1)N=C=O)(F)F | C8H4F3NO
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(3-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-[3-(trifluoromethyl)phenyl]urea | 239 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC=3C=C(C=CC3)NC(=O)NC3=CC(=CC=C3)C(F)(F)F)C=C1 | C33H26F3N5O5S
